US05004745
The 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine is prepared under the conditions of Example 17 but starting from 8.86 g of ethyl 2-(2,7-dichloro-6-fluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate and 4.03 g of tert.-butylamine in 45 cm3 of trichloromethane and then in 4.53 g of DBU and 45 cm3 of ethanol 5 g of 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 239° C.

reactant | ethyl 2-(2,7-dichloro-6-fluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate | 8.86 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)Cl | C17H15Cl2FN2O3
reactant | tert.-butylamine | 4.03 g | C(C)(C)(C)N | C4H11N
reactant | ethanol | 45 cm3, 5 g | C(C)O | C2H6O
solvent | trichloromethane | 45 cm3 | ClC(Cl)Cl | CHCl3
solvent | DBU | 4.53 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1-tert.-butyl-1,4-dihydro-benzo[b][1,8]naphthyridine | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C(C)(C)C)C1)F | C19H18ClFN2O3
